US04006243
2.72 g. of imidazole in 50 ml. of dimethylformamide is combined with 1.2 g. of sodium hydride suspension (80% strength). After allowing the mixture to stand at room temperature for 1.5 hours, 12.7 g. of (2-chloromethylphenyl)-(2,4-dichlorobenzyl)-sulfide is added thereto (prepared analogously to J. Org. Chem. 30 [1965] 4074), and the mixture is agitated for 20 hours at room temperature. After working up the mixture as indicated in Example 2, 12.5 g. of (2,4-dichlorobenzyl)-[2-(1-imidazolylmethyl)-phenyl]-sulfide, hydrochloride, is obtained by recrystallization from methylene chloride, m.p. 171°-175°.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | (2-chloromethylphenyl)-(2,4-dichlorobenzyl)-sulfide | ClCC1=C(C=CC=C1)SCC1=C(C=C(C=C1)Cl)Cl | C14H11Cl3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2,4-dichlorobenzyl)-[2-(1-imidazolylmethyl)-phenyl]-sulfide, hydrochloride | Cl.ClC1=C(CSC2=C(C=CC=C2)CC=2NC=CN2)C=CC(=C1)Cl | InChI=1S/C17H14Cl2N2S.ClH/c18-14-6-5-13(15(19)10-14)11-22-16-4-2-1-3-12(16)9-17-20-7-8-21-17;/h1-8,10H,9,11H2,(H,20,21);1H
